US06518268B1
Preparation of 4-(4-Chloro-benzenesulfonylamino)-N-[3-(2,4-dioxo-thiazolidin-5-ylidenemethyl)-phenyl]-benzamide
4-Amino-N-[3-(2,4-dioxo-thiazolidin-5-ylidenemethyl)-phenyl]-benzamide was dissolved in pyridine and treated with 4-chloro-benzenesulfonyl chloride in pyridine at 60° C. for 12 h. The solution-was cooled and diluted with EtOAc then washed with 10% aq. NaHSO4 followed by saturated aq. NaCl. The organic phase was separated, dried over Na2SO4 and concentrated under reduced pressure to give an oil. Trituration with hexane gave pure product.

reactant | 4-Amino-N-[3-(2,4-dioxo-thiazolidin-5-ylidenemethyl)-phenyl]-benzamide | NC1=CC=C(C(=O)NC2=CC(=CC=C2)C=C2C(NC(S2)=O)=O)C=C1 | C17H13N3O3S
reactant | 4-chloro-benzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | hexane | CCCCCC | C6H14
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-Chloro-benzenesulfonylamino)-N-[3-(2,4-dioxo-thiazolidin-5-ylidenemethyl)-phenyl]-benzamide | ClC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C(=O)NC2=CC(=CC=C2)C=C2C(NC(S2)=O)=O)C=C1 | C23H16ClN3O5S2
